US07691843B2
To a stirred solution of 3,4-dimethoxy-5-(trimethylsilanylethynyl)benzoic acid (5.56 g, 20 mmol) in THF (115 mL) at 0° C. was added TBAF (1.0 M solution in THF, 30 mL, 30 mmol). The resulting solution was stirred at 0° C. for 30 min, then the reaction mixture was diluted with 1 N HCl aqueous solution (200 mL), extracted with EtOAc (3×70 mL). The combined organic layer was washed with brine (100 mL), dried over Na2SO4, concentrated in vacuo to give 3-ethynyl-4,5-dimethoxybenzoic acid (4.0 g). The product was used without further purification.

reactant | 3,4-dimethoxy-5-(trimethylsilanylethynyl)benzoic acid | 20 mmol, 5.56 g | COC=1C=C(C(=O)O)C=C(C1OC)C#C[Si](C)(C)C | C14H18O4Si
reactant | TBAF | 30 mmol, 1.0 M, 30 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 115 mL | C1CCOC1 | C4H8O
solvent | HCl | 1 N, 200 mL | Cl | ClH
product | 3-ethynyl-4,5-dimethoxybenzoic acid | 4.0 g | C(#C)C=1C=C(C(=O)O)C=C(C1OC)OC | C11H10O4
